US07544688B2
Synthesis of 4-Cyclopentylamino-6-(2-dimethylamino-ethoxy)-quinazoline-2-carbonitrile
4-Cyclopentylamino-6-hydroxy-quinazoline-2-carbonitrile (0.4 mmol), (2-Chloro-ethyl)-dimethyl-amine hydrochloride (0.55 mmol) and cesiumcarbonate (3.5 mmol) are stirred in DMF (3 ml) at RT for 20 hours. The suspension is filtered, washed with little DMF and water is added to the filtrate until the solution gets turbide. The precipitate formed is filtered off and dried (vacuum). A white powder with mp. 158-160° C., Rf=0.51 (CH2C2/MeOH=9:2) is obtained.

reactant | 4-Cyclopentylamino-6-hydroxy-quinazoline-2-carbonitrile | 0.4 mmol | C1(CCCC1)NC1=NC(=NC2=CC=C(C=C12)O)C#N | C14H14N4O
reactant | (2-Chloro-ethyl)-dimethyl-amine hydrochloride | 0.55 mmol | Cl.ClCCN(C)C
reactant | cesiumcarbonate | 3.5 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-Cyclopentylamino-6-(2-dimethylamino-ethoxy)-quinazoline-2-carbonitrile | C1(CCCC1)NC1=NC(=NC2=CC=C(C=C12)OCCN(C)C)C#N | C18H23N5O
